US04400386
To 3.5 l of fuming sulfuric acid was added, with cooling, 600 g (3.73 moles) of 6-fluoroquinaldine in small portions. About 0.1 g of sodium nitrate was added to the mixture, followed by the dropwise addition of 261 ml of fuming red nitric acid over a six-hour period while maintaining the temperature at 5°-10° C. The mixture was stirred at 20° C. for sixteen hours, then poured into 3 gallons of ice. The mixture was basified with ammonium hydroxide with cooling. The precipitated solid was separated by filtration and dissolved in about two liters of warm toluene. The solution was dried over magnesium sulfate, filtered and evaporated to provide a yellow solid, 6-fluoro-5-nitroquinaldine, m.p. 105°-108° C., which was recrystallized from 1,2-dichloroethane. The structural assignment was confirmed by nuclear magnetic resonance and infrared spectral analyses.

reactant | sulfuric acid | 3.5 l | S(O)(O)(=O)=O | H2O4S
reactant | 6-fluoroquinaldine | 3.73 moles, 600 g | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | sodium nitrate | 0.1 g | [N+](=O)([O-])[O-].[Na+]
reactant | nitric acid | 261 ml | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 6-fluoro-5-nitroquinaldine | FC=1C(=C2C=CC(=NC2=CC1)C)[N+](=O)[O-] | C10H7FN2O2
